US07947852B2
Step A: 2-(7-Methoxy-1-naphthyl)ethyl methanesulphonate
2-(7-Methoxy-1-naphthyl)ethanol (25 mmol) and triethylamine (30 mmol) are dissolved in 50 ml of dichloromethane and the reaction mixture is cooled to 0° C. using an ice bath. Mesyl chloride (30 mmol) is added dropwise and the reaction mixture is stirred at ambient temperature for 2 hours and then poured into 100 ml of water. The organic phase is washed with 1M hydrochloric acid solution and then with water, dried over magnesium sulphate and evaporated. The oil obtained is precipitated from a mixture of diethyl ether/petroleum ether (1/1). The title product is filtered off under suction and then recrystallised from to diisopropyl ether.

reactant | 2-(7-Methoxy-1-naphthyl)ethanol | 25 mmol | COC1=CC=C2C=CC=C(C2=C1)CCO | C13H14O2
reactant | triethylamine | 30 mmol | C(C)N(CC)CC | C6H15N
reactant | Mesyl chloride | 30 mmol | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | water | 100 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(7-Methoxy-1-naphthyl)ethyl methanesulphonate | CS(=O)(=O)OCCC1=CC=CC2=CC=C(C=C12)OC | C14H16O4S
